US07176242B2
Step 4: Methyl 4-[(methylsulfonyl)amino]-1H-indole-6-carboxylate
To a mixture of methyl 4-amino-1H-indole-6-carboxylate (1.0 g) in DMF (10 mL) was added 4-dimethylaminopyridine (1.46 g) and methanesulfonyl chloride (0.6 g). The mixture was heated to 60° C. for 3 h, cooled to room temperature, and partitioned between water and ethyl acetate. The layers were separated and the organic layer washed three times with brine, dried over anhydrous sodium sulfate and concentrated to give 0.71 g of the title compound: 1H NMR (CDCl3) δ 3.02, 3.94, 6.69, 7.42, 7.81, 8.04.

reactant | methyl 4-amino-1H-indole-6-carboxylate | 1.0 g | NC1=C2C=CNC2=CC(=C1)C(=O)OC | C10H10N2O2
reactant | methanesulfonyl chloride | 0.6 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | 4-dimethylaminopyridine | 1.46 g | CN(C1=CC=NC=C1)C | C7H10N2
product | Methyl 4-[(methylsulfonyl)amino]-1H-indole-6-carboxylate | 0.71 g | CS(=O)(=O)NC1=C2C=CNC2=CC(=C1)C(=O)OC | C11H12N2O4S
